US08710243B2
2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile was dissolved in 3 ml DCM and the mixture was cooled to −50° C. BBr3 (5 eq) was added and the reaction was stirred at −50° C. for 4.5 h and then at −20° C. for 16 h. The mixture was cooled to −78° C. and MeOH (90 μl) was added followed by water. The aqueous layer was extracted with DCM 3× and the combined organic layers were concentrated. The crude product was purified on silica (EtOAc/n-Heptane 2:8-3:7). 4.9 mg 2-(3,5-dimethylisoxazol-4-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile was obtained as a white solid. ES/MS m/z: 330.2 (M+H), 328.3 (M−H); 1H NMR (CDCl3, 500 MHz): 7.75 (m, 1H), 7.67 (m, 1H), 7.51 (m, 1H), 7.41 (m, 1H), 7.20 (m, 2H), 6.88 (m, 2H), 2.28 (s, 3H) and 2.05 (s, 3H).

reactant | 2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)OC)C#N)C | C21H17N3O2
reactant | BBr3 | 5 eq | B(Br)(Br)Br | BBr3
reactant | MeOH | 90 μl | CO | CH4O
reactant | water | O | H2O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-dimethylisoxazol-4-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile | 4.9 mg | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)O)C#N)C | C20H15N3O2
